US05744488
Methyl 5-(2-aminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoat
A solution of methyl 5-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate (0.57 g) in tetrahydrofuran (50 ml) was hydrogenated at room temperature and 4.5 atm. pressure in the presence 10% palladium on carbon (50 mg) for 20 hours. The mixture was filtered and the residue was washed with methanol. The filtrate and washings were combined and evaporated to give a gum which was chromatographed on silica gel. Elution with dichloromethane/methanol (19:1) gave impurity, and then further elution with dichloromethane/methanol/0.880 ammonia solution (95:5:1) gavepure product. The product fractions were evaporated to give the title compound as a gum (0.325 g), Rf. 0.4 (SS3). The product was used directly for further reaction.

reactant | methyl 5-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 0.57 g | C(C1=CC=CC=C1)OC(=O)NCCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CN1C=NC=C1 | C27H30N4O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | Methyl 5-(2-aminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoat | 0.325 g | NCCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CN1C=NC=C1 | C19H24N4O2
